US05256675
To a mixture of 2-acetylamino-4-(4-nitrophenylthiomethyl)thiazole (11 g) and ammonium chloride (2 g) in a mixture of tetrahydrofuran (200 ml), ethanol (200 ml) and water (100 ml) was added portionwise the iron powder (17 g) at 80° C. with stirring. The mixture was refluxed for 3 hours with stirring. The reaction mixture was filtered by suction and the filtrate was concentrated under reduced pressure and then the residue was triturated with water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-acetylamino-4-(4-aminophenylthiomethyl)thiazole (9.3 g, yield: 93.6%).

reactant | 2-acetylamino-4-(4-nitrophenylthiomethyl)thiazole | 11 g | C(C)(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C12H11N3O3S2
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | iron | 17 g | [Fe] | Fe
product | 2-acetylamino-4-(4-aminophenylthiomethyl)thiazole | 9.3 g, yield: 93.6% | C(C)(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)N | C12H13N3OS2
